US05112866
2-[(4-Carboethoxyphenyl)amino]ethenesulfonyl Fluoride
To a 75 mL DMF solution of 4-carboethoxyaniline (3.88 g, 23.5 mmol) was added ethenesulfonyl fluoride (3.3 mL, 30 mmol) under nitrogen. The solution was warmed to 100-120° C. for 6 hours. The cooled solution was slowly Poured into water and chilled in ice. The yellow solid precipitate was collected, dissolved in methylene chloride, washed with brine and dried (Na2SO4). After the solvent had been removed by distillation, the brown solid (5.4 g) was crystallized from methylene chloride/ether/hexane. The title compound (3.2 g, 49% yield) was obtained as a tan solid, mp 109.5°-111.5° C.

reactant | DMF | 75 mL | CN(C)C=O | C3H7NO
reactant | 4-carboethoxyaniline | 23.5 mmol, 3.88 g | C(=O)(OCC)C1=CC=C(N)C=C1 | C9H11NO2
reactant | ethenesulfonyl fluoride | 30 mmol, 3.3 mL | C(=C)S(=O)(=O)F | C2H3FO2S
solvent | water | O | H2O
product | 2-[(4-Carboethoxyphenyl)amino]ethenesulfonyl Fluoride | 3.2 g, 49% yield | C(=O)(OCC)C1=CC=C(C=C1)NC=CS(=O)(=O)F | C11H12FNO4S
